US08258130B2
A mixture of allyl-(2-iodo-4-trifluoromethyl-phenyl)-amine (1.75 g, 5.35 mmol), tetrabutylammonium chloride (1.68 g, 5.35 mmol), palladium acetate (120 mg, 0.54 mmol) and potassium carbonate (2.22 g, 16.0 mmol) in DMF (50 mL) is heated at 80° C. for 1.5 h. The reaction is quenched with water and extracted three times with DCM. The combined organic layer is dried (Na2SO4), filtered and concentrated. The residue is chromatographed through silica gel eluting with 0-40% EtOAc in heptane to afford 3-methyl-5-trifluoromethyl-1H-indole (401 mg). 1H NMR (300 MHz, CDCl3): δ=8.09 (broad s, 1H), 7.90 (s, 1 H), 7.44 (s, 1H), 7.10 (s, 1H), 2.38 (s, 3H).

reactant | allyl-(2-iodo-4-trifluoromethyl-phenyl)-amine | 5.35 mmol, 1.75 g | C(C=C)NC1=C(C=C(C=C1)C(F)(F)F)I | C10H9F3IN
reactant | potassium carbonate | 16.0 mmol, 2.22 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium chloride | 5.35 mmol, 1.68 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.54 mmol, 120 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-methyl-5-trifluoromethyl-1H-indole | 401 mg | CC1=CNC2=CC=C(C=C12)C(F)(F)F | C10H8F3N
